US08067407B2
Step a): 4-Chloro-6-(4-cyclobutylpiperazin-1-yl)pyrimidine
1.8 g (8.4 mmol) of 1-cyclobutylpiperazine dihydrochloride (Zaragoza et al., J. Med. Chem. 2004, 47, 2833) are initially charged in 18 ml of water, and 2.9 ml (2.1 g, 16.9 mmol) of N-ethyl-N-(propan-2-yl)propane-2-amine are added. The mixture is stirred at RT for 30 min, and 1.3 g (8.4 mmol) of 4,6-dichloropyrimidine are added. The reaction mixture is stirred at 115° C. for 1 h and cooled to RT, 25 ml of ethyl acetate are added and the mixture is extracted with 25 ml of a saturated aqueous sodium bicarbonate solution. The organic phase is separated off, dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude product is purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol 100/3). Yield: 1.9 g (89% of theory)

reactant | 1-cyclobutylpiperazine dihydrochloride | 8.4 mmol, 1.8 g | Cl.Cl.C1(CCC1)N1CCNCC1
reactant | N-ethyl-N-(propan-2-yl)propane-2-amine | 16.9 mmol, 2.9 ml, 2.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,6-dichloropyrimidine | 8.4 mmol, 1.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 18 ml | O | H2O
product | 4-Chloro-6-(4-cyclobutylpiperazin-1-yl)pyrimidine | ClC1=NC=NC(=C1)N1CCN(CC1)C1CCC1 | C12H17ClN4
